US06635655B1
{4-Chloro-2-methyl-6-[4-(quinolin-2-ylmethoxy)-butoxymethyl]-phenoxy}-acetonitrile
MS (ESI) 424 (M+H)+. Prepared from 4-(quinolin-2-ylmethoxy)-butan-1-ol (EXAMPLE-34b) and (2-bromomethyl-4-chloro-6-methyl-phenoxy)-acetonitrile.

reactant | 4-(quinolin-2-ylmethoxy)-butan-1-ol | N1=C(C=CC2=CC=CC=C12)COCCCCO | C14H17NO2
reactant | (2-bromomethyl-4-chloro-6-methyl-phenoxy)-acetonitrile | BrCC1=C(OCC#N)C(=CC(=C1)Cl)C | C10H9BrClNO
product | {4-Chloro-2-methyl-6-[4-(quinolin-2-ylmethoxy)-butoxymethyl]-phenoxy}-acetonitrile | ClC1=CC(=C(OCC#N)C(=C1)COCCCCOCC1=NC2=CC=CC=C2C=C1)C | C24H25ClN2O3
